US07723336B2
6-((trans-4-Aminocyclohexyl)amino)-8-anilinoimidazo[1,2-b]pyridazine-7-carbonitrile
In a 1 dram vial was added 6-chloro-8-((4-methoxybenzyl)(phenyl)amino)imidazo[1,2-b]pyridazine-7-carbonitrile (0.019 g, 0.049 mmol) from (1e), (trans)-cyclohexane-1,4-diamine (0.011 g, 0.097 mmol), cesium carbonate (0.048 g, 0.146 mmol), Pd(OAc)2 (0.547 mg, 2.437 μmol), (R)-(−)-1-[(S)-2-(dicyclohexylphosphino)ferrocenyl]ethyldi-tert-butylphospine [JOSI-Phos] (1.351 mg, 2.437 μmol) and the solids were pump/purged with argon (3×). Dioxane (1.0 ml, 0.05 M) was added and the reaction was heated at 100° C. overnight. Upon cooling, the mixture was filtered through a frit and the resulting solution was concentrated to dryness. To this residue was added TFA (1.0 ml) and the solution was stirred for 18 hours, concentrated and purified by HPLC to provide the titled compound (0.0031 g, 18% yield) as a TFA salt. 1H NMR (500 MHz, MeOH) δ ppm 7.78 (1H, s), 7.57 (1H, s), 7.43-7.51 (2H, m), 7.31-7.40 (3H, m), 3.77-3.89 (1H, m), 3.06-3.20 (1H, m), 2.18-2.29 (2H, m), 2.09 (2H, m), 1.36-1.62 (4H, m). LC/MS, m/z 348 (M+1). HPLC Rt, 1.78 min. Waters Sunfire C18 column (4.6×50 mm). 0%-100% B. Solvent B: (90% MeOH, 10% H2O, 0.1% TFA). Solvent A: (10% MeOH, 90% H2O, 0.1% TFA). Gradient, start % B=0, final % B=100, gradient time 4 min, hold at 100% B 1 min, flow rate 4 mL/min.

reactant | 6-chloro-8-((4-methoxybenzyl)(phenyl)amino)imidazo[1,2-b]pyridazine-7-carbonitrile | 0.049 mmol, 0.019 g | ClC=1C(=C(C=2N(N1)C=CN2)N(C2=CC=CC=C2)CC2=CC=C(C=C2)OC)C#N | C21H16ClN5O
reactant | (trans)-cyclohexane-1,4-diamine | 0.097 mmol, 0.011 g | [C@H]1(CC[C@H](CC1)N)N | C6H14N2
reactant | cesium carbonate | 0.146 mmol, 0.048 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | Pd(OAc)2 | 2.437 μmol, 0.547 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 6-((trans-4-Aminocyclohexyl)amino)-8-anilinoimidazo[1,2-b]pyridazine-7-carbonitrile | 0.0031 g, 18% yield | N[C@@H]1CC[C@H](CC1)NC=1C(=C(C=2N(N1)C=CN2)NC2=CC=CC=C2)C#N | C19H21N7
